US07125995B2
a) 2-[4-(chloroacetyl)-1-piperazinyl]pyrimidine
Chloroacetyl chloride (1.16 ml, 14.62 mmol) is added to an ice-cooled solution of 2-(1-piperazinyl)pyrimidine (2.0 g, 12.18 mmol) in dichloromethane (20 ml) and triethylamine (5.09 ml, 36.54 mmol), and the mixture is stirred for 5 minutes and then warmed to room temperature. After 30 min at RT, water (50 ml) is then added to the mixture, which is extracted twice with methylene chloride (50 ml). The organic phase is washed with saturated sodium chloride solution. Drying of the organic phase over sodium sulphate, filtration, concentration under reduced pressure and silica gel chromatography (mobile phase: cyclohexane/ethyl acetate=10:1 to 1:1) gives 2.05 g (70%) of product as a colourless solid.

reactant | Chloroacetyl chloride | 14.62 mmol, 1.16 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-(1-piperazinyl)pyrimidine | 12.18 mmol, 2.0 g | N1(CCNCC1)C1=NC=CC=N1 | C8H12N4
reactant | triethylamine | 36.54 mmol, 5.09 ml | C(C)N(CC)CC | C6H15N
reactant | water | 50 ml | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-[4-(chloroacetyl)-1-piperazinyl]pyrimidine | 2.05 g, 70% | ClCC(=O)N1CCN(CC1)C1=NC=CC=N1 | C10H13ClN4O
